US07994179B2
Intermediate 11-7: Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-{[(4-methylphenyl)sulfonyl]oxy}acrylate
To a pre-cooled (−30° C.) solution of DMF:DMSO (1:1, 200 mL) under nitrogen was added TsCl (76.3 g, 0.4 mol) in small portions over 30 min. NOTE: This reaction is highly exotermic and careful temperature control is essential! The solution was stirred at −10° C. for 10 min, then again taken to −30° C. A solution of cbz-L-serine methyl ester (20.3 g, 0.08 mol, CAS 1676-81-9) in DMF was added dropwise, again with careful temperature control. After stirring for 10 min at −30° C. triethylamine (110 mL, 0.79 mol) was added and the reaction was slowly taken to 0° C. and kept at this temperature for 2 h. The reaction was quenched by addition of ice-cold water. The solution was extracted with 3×EtOAc, then the combined organic layer was washed extensively with brine and water. Drying and evaporation gave product as yellow oil (30 g, 94%).

reactant | DMF DMSO | 200 mL | CN(C)C=O.CS(=O)C
reactant | TsCl | 0.4 mol, 76.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | cbz-L-serine methyl ester | 0.08 mol, 20.3 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C12H15NO5
reactant | triethylamine | 0.79 mol, 110 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-{[(4-methylphenyl)sulfonyl]oxy}acrylate | 30 g, 94% | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/OS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO7S
